US09238631B2
53 mg (0.30 mmol) 1-Fluoro-2-iodoethane were dissolved in 5 ml dimethylformamide 98 mg (0.71 mmol) potassium carbonate and 100 mg (0.20 mmol) (2S,5RS)-2-tert.-Butoxycarbonylamino-5-[2-(4-hydroxy-phenyl)-ethyl]-hexanedioic acid di-tert.-butyl ester added. The mixture was stirred at room temperature over night. For workup, water and ethyl acetate were added, the phases separated and the water extracted with ethyl acetate twice. Combined organic phases were dried (Na2SO4), filtered and evaporated. The raw product was absorbed on Isolute and chromatographed on a Biotage Isolera system (SNAP NH 110 g, A=n-hexane, B=ethyl acetate, A 2 CV, A to 47% B in 9.4 CV, 5 CV 50% B, 50 mL/min, Fr. a 22 mL). Fractions 29 to 32 were collected to give 65 mg (59%) of (2S,5RS)-2-tert.-Butoxycarbonylamino-5-{2-[4-(2-fluoro-ethoxy)-phenyl]-ethyl}-hexanedioic acid di-tert.-butyl ester as clear oil.

reactant | 1-Fluoro-2-iodoethane | 0.30 mmol, 53 mg | FCCI | C2H4FI
reactant | dimethylformamide | 0.71 mmol, 5 ml, 98 mg | CN(C=O)C | C3H7NO
reactant | (2S,5RS)-2-tert.-Butoxycarbonylamino-5-[2-(4-hydroxy-phenyl)-ethyl]-hexanedioic acid di-tert.-butyl ester | 0.20 mmol, 100 mg | C(C)(C)(C)OC([C@H](CCC(C(=O)OC(C)(C)C)CCC1=CC=C(C=C1)O)NC(=O)OC(C)(C)C)=O | C27H43NO7
reactant | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2S,5RS)-2-tert.-Butoxycarbonylamino-5-{2-[4-(2-fluoro-ethoxy)-phenyl]-ethyl}-hexanedioic acid di-tert.-butyl ester | 65 mg, 59% | C(C)(C)(C)OC([C@H](CCC(C(=O)OC(C)(C)C)CCC1=CC=C(C=C1)OCCF)NC(=O)OC(C)(C)C)=O | C29H46FNO7
